US08563505B2
TBAF (1.0M in THF, 1.7 mL, 1.7 mmol) was added to a solution of (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-methoxypyrrolidine-1,2-dicarboxylate (231 mg, 0.440 mmol) in THF (5 mL) and stirred at r.t. for 1 hr. The reaction was evaporated to give crude (2S,4R)-methyl 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-methoxypyrrolidine-2-carboxylate (167 mg, 0.439 mmol, 100% yield) as an orange oil used directly in next steps with no purification. LCMS: rt=1.01 min. [M-OMe]+=349; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent B=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min; inj. vol.=5 μL; wavelength=220.

reactant | TBAF | 1.7 mmol, 1.0M, 1.7 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-methoxypyrrolidine-1,2-dicarboxylate | 0.440 mmol, 231 mg | CN(C1=CC(=C(C=C1)C1=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC)OC)C=C)C | C29H40N2O5Si
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2S,4R)-methyl 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-methoxypyrrolidine-2-carboxylate | 0.439 mmol, 167 mg, 100% yield | CN(C1=CC(=C(C=C1)C1=CC=C(C=C1)[C@@]1(C[C@H](NC1)C(=O)OC)OC)C=C)C | C23H28N2O3
